US07781454B2
Step 1: tert-butyl 3-{[5-chloro-4-(2,5-dichloro-3-cyanophenoxy)-2H-1,2,3-benzotriazol-2-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate
2,5-dichloro-3-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile (1.00 g, 2.94 mmol) and cesium carbonate (1.15 g, 3.53 mmol) were suspended in dry DMF (10 mL) under N2, and tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (0.965 g, 3.09 mmol) was added as a solution in DMF (5 mL) at room temperature. After 1 hour, the reaction mixture was quenched with saturated aqueous ammonium chloride (20 mL), diluted with water (50 mL), and the mixture extracted with EtOAc (2×100 mL). The combined organic fractions were washed with water (3×100 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by automated column chromatography on silica gel (120 g) eluting with 25-50% EtOAc/hexanes. LRMS (M+1)=569.6.

reactant | 2,5-dichloro-3-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile | 2.94 mmol, 1.00 g | ClC1=C(C#N)C=C(C=C1OC1=C(C=CC=2NN=NC21)Cl)Cl | C13H5Cl3N4O
reactant | cesium carbonate | 3.53 mmol, 1.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 3.09 mmol, 0.965 g | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-{[5-chloro-4-(2,5-dichloro-3-cyanophenoxy)-2H-1,2,3-benzotriazol-2-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | ClC1=C(C=2C(=NN(N2)CC2=NN(C3=NC=CC=C32)C(=O)OC(C)(C)C)C=C1)OC1=C(C(=CC(=C1)Cl)C#N)Cl | C25H18Cl3N7O3
